US05925253
Step I--2-(2-Dimethylaminoethoxy)ethyl Methacrylate
A magnesium methoxide solution was prepared by dissolving magnesium metal (4 g) in anhydrous methanol (100 ml) in the presence of a small amount of iodine (approximately 0.1 g). A portion of the resulting solution (18 ml) was placed in a 250 ml reaction vessel and then 2-(2-dimethylaminoethoxy)ethanol (23.6 g) was added, followed by the addition of phenothiazine (0.1 g) and methyl methacrylate (117 g). The mixture was stirred and heated until the methanol started to distill. When all of the methanol was collected, the mixture was cooled to room temperature and the solids were filtered off. The filtrate was subjected to fractionation under reduced pressure. The excess of methyl methacrylate was separated and then pure 2-(2-dimethylaminoethoxy)ethyl methacrylate was collected at 97-102° C./4 mmHg. Yield 22.1 g.

reactant | magnesium | 4 g | [Mg] | Mg
reactant | iodine | approximately 0.1 g | II | I2
reactant | 2-(2-dimethylaminoethoxy)ethanol | 23.6 g | CN(CCOCCO)C | C6H15NO2
reactant | phenothiazine | 0.1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | methyl methacrylate | 117 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-Dimethylaminoethoxy)ethyl Methacrylate | C(C(=C)C)(=O)OCCOCCN(C)C | C10H19NO3
